US08466290B2
Synthesis of 2-phenyl-6-trifluoromethoxy-4-quinolinecarboxylic acid
Commercially available 5-trifluoromethoxyisatin (5.66 g, 24.5 mmol) was added in small portions to an ethanol (75 mL) solution of potassium hydroxide (85%, 3.60 g, 54.5 mmol) under ice cooling. To the mixture, acetophenone (3.00 mL, 25.7 mmol) was further added, and then, the mixture was heated to reflux for 1 hour. After the reaction solution was concentrated, water was added to the residue, and then concentrated hydrochloric acid (4.47 mL, 53.6 mmol) was added thereto. The deposited crystal was collected by filtration, washed with water, and dried. The crude crystal was dissolved in a saturated aqueous solution of sodium bicarbonate and washed with diisopropyl ether, and then, concentrated hydrochloric acid was added until a crystal was deposited. The deposited crystal was collected by filtration, washed with water, and dried to obtain the title compound (7.06 g, 21.2 mmol) as an ocherous powder.

reactant | 5-trifluoromethoxyisatin | 24.5 mmol, 5.66 g | FC(OC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO3
reactant | potassium hydroxide | 54.5 mmol, 3.60 g | [OH-].[K+]
reactant | acetophenone | 25.7 mmol, 3.00 mL | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydrochloric acid | 53.6 mmol, 4.47 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-phenyl-6-trifluoromethoxy-4-quinolinecarboxylic acid | 21.2 mmol, 7.06 g | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)O)OC(F)(F)F | C17H10F3NO3
